US04069321
A. 3β,25-Dibenzoyloxycholest-5-ene
Heat 2.9 gm. (7.2 mmole) of 25-hydroxycholesterol with 2.1 ml. (18 mmole) of benzoyl chloride in 30 ml. of pyridine at 70°-80° C. for 4 hours. Add an additional 1.4 ml. (12 mmole) of benzoyl chloride and continue heating at 75°-80° C. for 1 hour. Pour the reaction mixture into ice-water mixture (b 1:1, 500 gm.) Stir for 1 hour, separate the precipitate and wash with ice-water. Recrystalize from acetone. Dissolve the crude product (3.8 gm.) in methylene chloride-hexane (3:2, 40 ml.) and pass the solution through a silica gel column (120 gm.). Elute the column with 800 ml. methylene chloride-hexane (5:1) followed by 800 ml. methylene chloridehexane (10:1). Combine the fractions and concentrate to a residue. Recrystalize from acetone to obtain the pure product (3.32 gm., m.p. 130°-132° C.).

reactant | 25-hydroxycholesterol | 7.2 mmole | OC(C)(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@@H](O)CC[C@]4(C)[C@H]3CC[C@]12C | C27H46O2
reactant | benzoyl chloride | 18 mmole | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | benzoyl chloride | 12 mmole | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 3β,25-Dibenzoyloxycholest-5-ene | C(C1=CC=CC=C1)(=O)O[C@@H]1CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)(C)OC(C5=CC=CC=C5)=O)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C41H54O4
